US04036977
N-[4-(1-Adamantyloxy)-3,5-dimethylphenyl]-pyrrolidine
The amine obtained by washing a CH2Cl2 solution of 2.1 g. (6.82 mmole) of 4-(1-adamantyloxy)-3,5-dimethylaniline hydrochloride with three 25 ml. portions of 10% aq. NaOH followed by a water wash, drying (anhydrous MgSO4) and concentration, was combined with 1.47 g. (6.82 mmole) of 1,4-dibromobutane and 2.07 g. (15.0 mmole) of K2CO3 in 20 ml. of absolute ethanol and refluxed for approximately 18 hours.

reactant | 4-(1-adamantyloxy)-3,5-dimethylaniline hydrochloride | 6.82 mmole | Cl.C12(CC3CC(CC(C1)C3)C2)OC2=C(C=C(N)C=C2C)C
reactant | NaOH | [OH-].[Na+]
reactant | 1,4-dibromobutane | 6.82 mmole | BrCCCCBr | C4H8Br2
reactant | K2CO3 | 15.0 mmole | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[4-(1-Adamantyloxy)-3,5-dimethylphenyl]-pyrrolidine | C12(CC3CC(CC(C1)C3)C2)OC2=C(C=C(C=C2C)N2CCCC2)C | C22H31NO
